US05932601
In substantially the same manner as in Working Example 9, 5-[4-(4-hydroxy-3-methoxyphenyl)butyl]-2,4-oxazolidinedione was reacted with 4-chloromethyl-5-methyl-2-[(E)-styryl]thiazole to obtain 5-[4-[3-methoxy-4-[2-[(E)-styryl]-4-thiazolylmethoxy]phenyl]butyl]-2,4-oxazolidinedione, which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.167-168° C.

reactant | 5-[4-(4-hydroxy-3-methoxyphenyl)butyl]-2,4-oxazolidinedione | OC1=C(C=C(C=C1)CCCCC1C(NC(O1)=O)=O)OC | C14H17NO5
reactant | 4-chloromethyl-5-methyl-2-[(E)-styryl]thiazole | ClCC=1N=C(SC1C)\C=C\C1=CC=CC=C1 | C13H12ClNS
product | 5-[4-[3-methoxy-4-[2-[(E)-styryl]-4-thiazolylmethoxy]phenyl]butyl]-2,4-oxazolidinedione | COC=1C=C(C=CC1OCC=1N=C(SC1)\C=C\C1=CC=CC=C1)CCCCC1C(NC(O1)=O)=O | C26H26N2O5S
